US05449686
5e. 2-Carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexane-1-one
To a solution of dimethyl 4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)pimelate (3.1 g, 6.7 mmol) in dry 1,2-dimethoxyethane (50 mL) under an argon atmosphere was added sodium hydride (80% dispersion in mineral oil, 0.81 g, 27 mmol). The resulting mixture was refluxed for 20 min, additional 1,2-dimethoxyethane (50 mL) was added and the mixture was refluxed for another 70 min. The mixture was cooled to 0° C., was acidified with dilute hydrochloric acid and was concentrated. The mixture was partitioned between ether and dilute hydrochloric acid the organic layer was dried (magnesium sulfate) and the solvent was removed in vacuo. The product was purified by flash chromatography, eluting with 85:15 hexanes/ethyl acetate, to provide a white solid (0.76 g, 37%): m.p. 109°-110.5° C.

reactant | dimethyl 4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)pimelate | 6.7 mmol, 3.1 g | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=CC(=C(C=C1)OC(F)F)OC1CCCC1 | C22H27F2NO6
reactant | sodium hydride | 27 mmol, 0.81 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | 2-Carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexane-1-one | 0.76 g, 37% | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC(F)F)OC1CCCC1)C#N)=O | C21H23F2NO5
